US07790895B2
A flask was charged with 4-bromo-pyridine-3-carbaldehyde (93 mg, 0.5 mmol), 5-formal-2-methoxylphenelboronic acid (88 mg, 0.6 mmol), tetrakis(triphenylphosphine) palladium(0) (29 mg, 0.025 mmol), potassium phosphate (160 mg, 0.75 mmol) and 1,4-dioxane (5 mL). The reaction mixture was kept at 50° C. overnight. The reaction mixture was then diluted with ethyl acetate and washed with water then brine. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield 4-(5-formyl-2-methoxy-phenyl)-pyridine-3-carbaldehyde as a yellow solid.

reactant | 4-bromo-pyridine-3-carbaldehyde | 0.5 mmol, 93 mg | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | potassium phosphate | 0.75 mmol, 160 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.025 mmol, 29 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(5-formyl-2-methoxy-phenyl)-pyridine-3-carbaldehyde | C(=O)C=1C=CC(=C(C1)C1=C(C=NC=C1)C=O)OC | C14H11NO3
